US04075001
In the manner of Example VI, part C, 25 g of potassium tricyanomethanide in 75 ml of water and 100 ml of diethyl ether were treated with 19 g of concentrated sulfuric acid to give an ether solution of HN=C=C(CN)2. The ether solution was treated with 19.6 g of dipropylamine and the mixture allowed to stand for 1/2 hour. The ether was removed by distillation under reduced pressure and the residue heated to 150°. To the hot residue were added 500 ml of aqueous ethanol and the mixture was boiled vigorously for 15 minutes. The mixture was again concentrated and the residue heated at 150° for about 16 hours. The mixture was dissolved in aqueous ethanol, treated with activated charcoal and chilled for two days at about 5°. The separated solid was collected by filtration and dried to give 31 g of 3-amino-2-cyano-3-(dipropylamino)propenenitrile, m.p. 100°-105° from toluene. The ir and nmr spectra were consistent with the assigned structure.

reactant | potassium tricyanomethanide | 25 g | C(#N)[C-](C#N)C#N.[K+]
reactant | sulfuric acid | 19 g | S(O)(O)(=O)=O | H2O4S
reactant | dipropylamine | 19.6 g | C(CC)NCCC | C6H15N
solvent | water | 75 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 3-amino-2-cyano-3-(dipropylamino)propenenitrile | 31 g | NC(=C(C#N)C#N)N(CCC)CCC | C10H16N4
